US04873358
To a 100 ml three-neck round bottom flask, equipped with an addition funnel, a thermometer and a condenser topped with a nitrogen gas inlet tube, was added 20 ml of dimethylsulfoxide, 0.196 g (0.00815 mole) sodium hydride and then 0.5 g (0.00815 mole) of nitromethane was added dropwise at ambient temperature to give a slurry. 1.6 ml (0.0163 mole) of ethyl cyanoformate was then added dropwise forming a homogeneous solution and was then stirred for 2 hours at ambient temperature. The solution was made acidic by adding 30 ml of 1 Normal acetic acid with stirring. The product was extracted with ethyl acetate and dried over magnesium sulfate. Ethyl nitroacetate was formed in 83% yield as determined by gas chromatography.

reactant | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
reactant | sodium hydride | 0.00815 mole, 0.196 g | [H-].[Na+]
reactant | nitromethane | 0.00815 mole, 0.5 g | [N+](=O)([O-])C | CH3NO2
reactant | ethyl cyanoformate | 0.0163 mole, 1.6 ml | C(#N)C(=O)OCC | C4H5NO2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Ethyl nitroacetate | 83% yield | [N+](=O)([O-])CC(=O)OCC | C4H7NO4
